US09034866B2
Synthesis of 10-(3-hydroxy-3-methylbut-1-yn-1-yl)-3-(((2-methoxyethyl)(methyl)amino)methyl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide
Similar to as described in General Procedure G, 10-bromo-3-(((2-methoxyethyl)(methyl)amino)methyl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide (prepared similarly as described in the synthesis of 10-bromo-3-(pyrrolidin-1-ylmethyl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide replacing pyrrolidine with 2-methoxy-N-methylethanamine) was reacted with 2-methylbut-3-yn-2-ol to give the titled compound as a colorless solid (20 mg, 20%).

reactant | 10-bromo-3-(((2-methoxyethyl)(methyl)amino)methyl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide | BrC=1C=CC2=C(C=3N(CCO2)C(=C(N3)C(=O)N)CN(C)CCOC)C1 | C17H21BrN4O3
reactant | 10-bromo-3-(pyrrolidin-1-ylmethyl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide | BrC=1C=CC2=C(C=3N(CCO2)C(=C(N3)C(=O)N)CN3CCCC3)C1 | C17H19BrN4O2
reactant | 2-methoxy-N-methylethanamine | COCCNC | C4H11NO
reactant | 2-methylbut-3-yn-2-ol | CC(C)(C#C)O | C5H8O
product | 10-(3-hydroxy-3-methylbut-1-yn-1-yl)-3-(((2-methoxyethyl)(methyl)amino)methyl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide | 20 mg, 20% | OC(C#CC=1C=CC2=C(C=3N(CCO2)C(=C(N3)C(=O)N)CN(C)CCOC)C1)(C)C | C22H28N4O4
